* Test NPN Amplifier - audio presente

* Input AC
VIN 1 0 AC 0
RIN 1 2 100k
CIN 2 3 100n

* Bias divider per base
VCC 6 0 DC 9.0
RB_TOP 6 3 820k
RB_BOT 3 0 120k

* NPN transistor
Q1 4 3 5 NPN Bf=200 Br=1 Is=1e-14 Vt=0.026

* Emitter resistor e bypass AC
RE 5 0 1k
CE 5 0 47u

* Collector
RC 4 6 10k

* Output AC coupling
COUT 4 7 10n
ROUT 7 0 100k

* Optional diode clipper (puoi togliere per test)
*D1 7 0 DIODE Is=1e-14 N=1 Vt=0.026
*D2 0 7 DIODE Is=1e-14 N=1 Vt=0.026

.INPUT 1
.OUTPUT 7
